US05219873
Stage A: 1-N-benzyl-3-propionyl-pyridine-oxime bromide.
A mixture of 17.8 g of 3-propionyl pyridine oxime [(U.S. Pat. No. 3,004,979 (1961)] and 18 cm3 of benzyl bromide is maintained at reflux for 7 hours 30 minutes in 250 cm3 of ethyl acetate. After cooling and separating, 36.5 g of the expected product is obtained. m.p. 178°-180° C., recrystallized from an ethanol-ether mixture.

reactant | 3-propionyl pyridine oxime | 17.8 g | C(CC)(C=1C=NC=CC1)=NO | C8H10N2O
reactant | benzyl bromide | 18 cm3 | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl acetate | 250 cm3 | C(C)(=O)OCC | C4H8O2
product | 1-N-benzyl-3-propionyl-pyridine-oxime bromide | 36.5 g | [Br-].C(C1=CC=CC=C1)N1CC(=CC=C1)C(CC)=NO | InChI=1S/C15H18N2O.BrH/c1-2-15(16-18)14-9-6-10-17(12-14)11-13-7-4-3-5-8-13;/h3-10,18H,2,11-12H2,1H3;1H/p-1
